US06090979
In this reaction 5-vinyl-2-pyrrolidinone (structure 1) is subjected to an acidic hydrolysis thereby producing the desired compound, 4-amino-5-hexenoic acid (structure 2). This acidic hydrolysis is carried out using techniques known in the art. Typically, the 5-vinyl-2-pyrrolidinone is contacted with a strong acid such as hydrochloric acid or trifluoroacteic acid at a temperature above 60° C. in an aqueous solvent system. The 4-amino-5-hexenoic acid is recovered by concentration as is known in the art. The acidic hydrolysis followed by recrystallization produces a yield of 4-amino-5-hexenoic acid of 57-67%. The spent recrystallization liquor can be saved, concentrated, redissolved in ethanol and a second recrystallization can be carried out on this residue which increases the yield of final product by another 10-11%. The yield of 4-amino-5-hexenoic acid which is produced by this process is from 57-67% with one recrystallization and from 70-79% when a second recrystallization is carried out.

reactant | 5-vinyl-2-pyrrolidinone | C(=C)C1CCC(N1)=O | C6H9NO
reactant | hydrochloric acid | Cl | ClH
reactant | trifluoroacteic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-amino-5-hexenoic acid | NC(CCC(=O)O)C=C | C6H11NO2
